US09260440B2
A solution of compound (R)-methyl 11b-methyl-6-oxo-2,3,5,6,11,11b-hexahydro-1H-indolizino[8,7-b]indole-7-carboxylate (58 mg, 0.19 mmol), acetic acid (0.4 mL), and hydrazine hydrate (0.2 mL) in methanol (10 mL) was heated at reflux. After 7 h, the reaction was cooled and water (5 mL) was added. The mixture was extracted with EtOAc (3×5 mL) and the combined organic layers were washed with brine (10 mL) and dried over MgSO4. The mixture was filtered, evaporated to dryness, and the residue was purified by Pre-TLC using CH2Cl2 as eluent to give 40 mg of (R)-10a-methyl-7,8,9,10,10a, 11-hexahydro-5,6,7a,11-tetraazacyclohepta[def]cyclopenta[a]fluoren-4(5H)-one. 1H NMR (DMSO-d6) δ 12.9 (s, 1H), 10.6 (s, 1H), 7.50-7.52 (m, 2H), 7.12 (t, 1H, J=7.8 Hz), 3.24-3.26 (m, 1H), 2.91 (d, 1H, J=18.4 Hz), 2.37-2.38 (m, 1H), 2.30-2.32 (m, 1H), 2.20-2.21 (m, 1H), 1.95-1.96 (m, 1H), 1.41-1.43 (m, 1H), 1.34 (s, 3H), and 1.18-1.19 (m 1H). MS (ESI) m/e [M+1]+ 281.0.

reactant | (R)-methyl 11b-methyl-6-oxo-2,3,5,6,11,11b-hexahydro-1H-indolizino[8,7-b]indole-7-carboxylate | 0.19 mmol, 58 mg | C[C@]12CCCN1CC(C1=C2NC=2C=CC=C(C12)C(=O)OC)=O | C17H18N2O3
reactant | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 0.2 mL | O.NN
reactant | water | 5 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | (R)-10a-methyl-7,8,9,10,10a, 11-hexahydro-5,6,7a,11-tetraazacyclohepta[def]cyclopenta[a]fluoren-4(5H)-one | 40 mg | C[C@]12N(CC=3C=4C=5C(=CC=CC5NC14)C(NN3)=O)CCC2 | C16H16N4O
